US07396958B2
(2-amino-5-chlorophenyl)(3-methoxyphenyl)methanol
To 3.66 g of (2-amino-5-chlorophenyl)(3-methoxyphenyl)methanone dissolved in 15 ml of ethanol are added, at 20° C., 1.59 g of sodium borohydride. After 24 hours at 20° C., the reaction medium is concentrated, taken up in ethyl acetate and washed twice with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is solidified with dichloromethane to give 2.37 g of the expected product.

reactant | (2-amino-5-chlorophenyl)(3-methoxyphenyl)methanone | 3.66 g | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=CC=C1)OC | C14H12ClNO2
reactant | sodium borohydride | 1.59 g | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (2-amino-5-chlorophenyl)(3-methoxyphenyl)methanol | 2.37 g | NC1=C(C=C(C=C1)Cl)C(O)C1=CC(=CC=C1)OC | C14H14ClNO2
